US05712267
52(a) 4-Nitrobenzyl (1R,5S,6S)-2-{(2S,4S)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-1-methylpyrrolidin-4-ylthio}-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate
600 μl of diphenylphosphoryl chloride and 510 μl of diisopropylethylamine were added dropwise, whilst ice-cooling, to a solution of 1000 mg of 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate in 10 ml of dry acetonitrile, and the resulting mixture was stirred at the same temperature for 1 hour. 1800 μl of diisopropylethylamine and a solution of 1680 mg of (2S,4S)-4-mercapto-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-1-methylpyrrolidine bis(trifluoromethanesulfonate) (prepared as described in Preparation 52) in 5 ml of dry acetonitrile were then simultaneously added dropwise to the mixture, whilst ice-cooling, and the resulting mixture was stirred at the same temperature for 2 hours, after which it was allowed to stand overnight in a refrigerator. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was subjected to column chromatography through a Lobar column (Merck, LiChroprep RP-8, size B). The column was eluted first with 55% v/v aqueous methanol and then with 60% v/v aqueous methanol. Those fractions containing the title compound were collected, concentrated by evaporation under reduced pressure and lyophilized, to give 710 mg of the title compound, as a powder.

reactant | diphenylphosphoryl chloride | 600 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | diisopropylethylamine | 510 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 1000 mg | O[C@H](C)[C@@H]1[C@H]2N(C(C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | diisopropylethylamine | 1800 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S,4S)-4-mercapto-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-1-methylpyrrolidine bis(trifluoromethanesulfonate) | 1680 mg | FC(S(=O)(=O)O)(F)F.FC(S(=O)(=O)O)(F)F.S[C@H]1C[C@H](N(C1)C)C(=O)N1CCN(CC1)CCO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-Nitrobenzyl (1R,5S,6S)-2-{(2S,4S)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-1-methylpyrrolidin-4-ylthio}-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 710 mg | OCCN1CCN(CC1)C(=O)[C@H]1N(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)C | C29H39N5O8S
